US08258134B2
A mixture of 5-iodo-2H-pyridazin-3-one (8.640 g, 38.92 mmol) in tetrahydrofuran (150 mL) was treated with para-toluenesulfonic acid (1.49 g, 7.86 mmol) and 3,4-dihydro-2H-pyran (8.98 mL, 98.18 mmol). The reaction was stirred at 25° C. for 2 d. After this time, the reaction was filtered. The filtrate was treated with para-toluenesulfonic acid (6 g) and 3,4-dihydro-2H-pyran (9 mL), and the reaction stirred at 25° C. for 6 h. The reaction was concentrated in vacuo, taken up in ethyl acetate (400 mL), washed with a saturated aqueous sodium bicarbonate solution (400 mL), and a saturated aqueous sodium chloride solution. The aqueous layer was extracted with ethyl acetate (300 mL) and was washed with a saturated aqueous sodium chloride solution. The combined organics were dried over sodium sulfate, filtered, rinsed, and concentrated in vacuo. Silica gel column chromatography (AnaLogix, 400 g, 0% to 50% ethyl acetate/hexanes) afforded 5-iodo-2-(tetrahydro-pyran-2-yl)-2H-pyridazin-3-one (2.73 g, 23%) as a clear light brown, viscous oil. The material contained an impurity. However, it was used without further purification.

reactant | 5-iodo-2H-pyridazin-3-one | 38.92 mmol, 8.640 g | IC1=CC(NN=C1)=O | C4H3IN2O
reactant | para-toluenesulfonic acid | 7.86 mmol, 1.49 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3,4-dihydro-2H-pyran | 98.18 mmol, 8.98 mL | O1CCCC=C1 | C5H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 5-iodo-2-(tetrahydro-pyran-2-yl)-2H-pyridazin-3-one | 2.73 g, 23% | IC1=CC(N(N=C1)C1OCCCC1)=O | C9H11IN2O2
